US07145012B2
Preparation of Intermediate 2-Chloro-N-(4-chloro-phenyl)-benzamidine (I-5a)
Trimethylaluminum (2 M in hexanes, 100 ml, 200 mmol) was added dropwise to a solution of 4-chloro-phenylamine (18.2 g, 143 mmol) in toluene (550 ml) under a N2 atmosphere at 0° C. The reaction mixture was warmed to room temperature and stirred for 3.5 hours. A solution of 2-chlorobenzonitrile (23.6 g, 171 mmol) in toluene (140 ml) was added and the reaction mixture was heated at 80° C. for 17 hours, during which time it became homogeneous. The reaction mixture was then cooled to room temperature and poured over a slurry of silica gel in CHCl3/methanol (2:1). After filtration, the filter cake was washed with a mixture of CH2Cl2/MeOH (2:1). The combined filtrates were concentrated in vacuo, and the solid yellow residue was triturated with hexanes/ether (2:1). The product I-5a (25.1 g, 66%) was used in the next reaction without further purification.

reactant | Trimethylaluminum | 200 mmol, 2 M, 100 ml | C[Al](C)C
reactant | 4-chloro-phenylamine | 143 mmol, 18.2 g | ClC1=CC=C(C=C1)N | C6H6ClN
reactant | 2-chlorobenzonitrile | 171 mmol, 23.6 g | ClC1=C(C#N)C=CC=C1 | C7H4ClN
solvent | toluene | 550 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
solvent | CHCl3 methanol | C(Cl)(Cl)Cl.CO
product | 2-Chloro-N-(4-chloro-phenyl)-benzamidine | ClC1=C(C(=N)NC2=CC=C(C=C2)Cl)C=CC=C1 | C13H10Cl2N2
